US05218109
In 1 ml of tetrahydrofuran was dissolved 35 mg of 20-methyl-1α,3β-bis(methoxycarbonyloxy)-21-phenylsulfonylpregna-5,7-diene and the solution was cooled to -70° C. To the solution was added 0.8 ml of 0.1N solution of lithium hexamethyldisilazide in tetrahydrofuran. The resulting mixture was stirred for 30 minutes. After addition of 30 mg of isoamyl bromide, the mixture was stirred for 4 hours while the temperature was gradually raised to room temperature. The reaction mixture was poured into water and extracted with diethyl ether. The extract was washed with an aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium chloride, then dried over sodium sulfate and concentrated. The residue was dissolved in 1 ml of methanol and treated with 500 mg of 6% sodium amalgam in the presence of 0.5 ml of disodium hydrogen phosphate at ambient temperature for 1 hour. The reaction mixture was poured into water and extracted with diethyl ether. The extract was washed with an aqueous solution of sodium chloride, dried over sodium sulfate and concentrated. The residue was dissolved in 1 ml of methanol, 10 mg of potassium carbonate was added, and the mixture was stirred for 12 hours. The reaction mixture was then subjected to the isolation and purification procedure of Reference Example 8 to give 15 mg of cholesta-5,7-diene-1α,3β-diol which showed the same 1H NMR spectrum as that obtained in Reference Example 8.

reactant | 20-methyl-1α,3β-bis(methoxycarbonyloxy)-21-phenylsulfonylpregna-5,7-diene | 35 mg | CC(CS(=O)(=O)C1=CC=CC=C1)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(=O)OC)OC(=O)OC | C32H42O8S
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | isoamyl bromide | 30 mg | C(CC(C)C)Br | C5H11Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | cholesta-5,7-diene-1α,3β-diol | 15 mg | CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H44O2
